US09233979B2
1-(3-(methylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(phenyl(tetrahydrofuran-2-yl)methyl)urea (320 mg, 0.526 mmol) was taken up in TFA (3.0 ml). Triethylsilane (0.126 ml, 0.789 mmol) was added and the reaction was allowed to stir at rt for 30 mins. The reaction mixture was concentrated in vacuo. Saturated NaHCO3 was slowly added. The products were then washed with EtOAc (3×). The combined organic layers were then washed with brine, dried over MgSO4, filtered through celite, then concentrated in vacuo. The oil was taken up in 2 ml of DCM and loaded directly onto silica gel. Purification by MPLC 0-15% EtOAc/MeOH gave 1-(3-(methylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(phenyl(tetrahydrofuran-2-yl)methyl)urea. MS ESI calc'd. for C19H23N6O2 [M+H]+ 367. found 367.

reactant | 1-(3-(methylamino)-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(phenyl(tetrahydrofuran-2-yl)methyl)urea | 0.526 mmol, 320 mg | CNC1=NN(C2=C1C=NC(=C2)NC(=O)NC(C2OCCC2)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C38H36N6O2
reactant | Triethylsilane | 0.789 mmol, 0.126 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 3.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-(3-(methylamino)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(phenyl(tetrahydrofuran-2-yl)methyl)urea | CNC1=NNC2=C1C=NC(=C2)NC(=O)NC(C2OCCC2)C2=CC=CC=C2 | C19H22N6O2
